US05914339
5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(3-cyclopentyl-propyl) ester
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 3-cyclopentylpropanol according to the procedure of Example 30 as a colorless gum (HCl salt); 1H NMR (CDCl3) δ 0.80-1.80 (m, 26H), 1.33 (d, J=6.3 Hz, 3H), 2.80 (m, 1H), 3.18 (m, 2H), 3.48 (m, 2H), 4.28 (t, J=6.8 Hz, 4H), 5.45 (bd, J=9.7 Hz, 1H), 6.80 (m, 3H), 7.25 (m, 2H), 7.45 (s, 1H), 8.70 (bs, 1H), 10.10 (bs, 1 H); IR (KBr): 1765 cm-1 (C=O); MS (CI) m/z 642 (MH+); [α]D25 -21° (c, 1.0, CHCl3). Anal. Calcd. for C36H48ClNO7 ·HCl: C, 63.71; H, 7.13; N, 2.06; Cl, 10.45. Found: C, 63.69; H, 7.64; N, 2.00; Cl, 10.13.

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 3-cyclopentylpropanol | C1(CCCC1)CCCO | C8H16O
reactant | HCl | Cl | ClH
reactant | KBr | [K+].[Br-]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(3-cyclopentyl-propyl) ester | C1(CCCC1)CCCOC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)OCCCC2CCCC2 | C36H48ClNO7
